US05359098
6-[9-(4-Methylpiperazinyl)nonoxy]-2-phenyl-4H-1-benzopyran-4-one
The compound was prepared by a method similar to Example 2 from 6-hydroxyflavone, 1,9-dibromononane and 4-methyl piperazine: mp 77°-80° C.

reactant | 6-hydroxyflavone | OC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1,9-dibromononane | BrCCCCCCCCCBr | C9H18Br2
reactant | 4-methyl piperazine | CN1CCNCC1 | C5H12N2
product | 6-[9-(4-Methylpiperazinyl)nonoxy]-2-phenyl-4H-1-benzopyran-4-one | CN1CCN(CC1)CCCCCCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=CC=C2)=O)C1 | C29H38N2O3
